data/oMe_Silver.jsonl
{"reaction_id": "NR-138_1-C1CCCCC1_2-Cl_3-C(C)C_4-c1ccc(C(F)(F)F)cc1_5-c1ccccc1_6-c1ccc(C(F)(F)F)cc1","name": "Mannich Reaction","level": "medium","reactants_smiles": ["C(C(=O)C1CCCCC1)(Cl)(C(C)C)","C(=O)(c1ccc(C(F)(F)F)cc1)(c1ccccc1)","Nc1ccc(C(F)(F)F)cc1"],"products_smiles": ["C(C(=O)C1CCCCC1)(Cl)(C(C)C)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)Nc1ccc(C(F)(F)F)cc1"],"conditions": "Acid","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(Cl)","rationale": "Acid protonates the carbonyl oxygen, increasing electrophilicity of the carbonyl carbon via inductive and resonance effects, facilitating subsequent enolization."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(C)C)(Cl)=C(O)C1CCCCC1","rationale": "Proton transfer to the α-carbon promotes enol formation, stabilized by resonance between the α-carbon and the protonated carbonyl."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=[OH+])C1CCCCC1)(Cl)(C(C)C)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)Nc1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic enol attacks the electrophilic iminium carbon, favored by conjugation and the strong electron-withdrawing effect of the protonated nitrogen."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C(=O)C1CCCCC1)(Cl)(C(C)C)C(c1ccc(C(F)(F)F)cc1)(c1ccccc1)Nc1ccc(C(F)(F)F)cc1","rationale": "Deprotonation restores neutrality, yielding the stable β-amino carbonyl product under thermodynamically favorable conditions."}],"description": "Under acidic conditions, the carbonyl group is activated toward nucleophilic attack via protonation, enabling enolization of the ketone. The enol then attacks the iminium ion formed from the aldehyde and amine, yielding the β-amino carbonyl product after deprotonation."}
{"reaction_id": "NG-004_1-c1nccnc1_2-c1ccc(N(C)C)cc1_3-C(F)(F)F","name": "Base-catalyzed Aldol condensation","level": "medium","reactants_smiles": ["C(c1nccnc1)C=O","C(c1ccc(N(C)C)cc1)(C(F)(F)F)=O"],"products_smiles": ["C(c1ccc(N(C)C)cc1)(C(F)(F)F)=C(C=O)c1nccnc1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1nccnc1)=C([O-])","rationale": "Acid-base conditions favor deprotonation at the α-position due to resonance stabilization of the resulting enolate by the adjacent carbonyl."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(C(F)(F)F)([O-])C(C=O)c1nccnc1","rationale": "The nucleophilic enolate carbon attacks the electrophilic carbonyl carbon of c1ccc(N(C)C)cc1, whose partial positive charge is enhanced by the electron-withdrawing carbonyl oxygen."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(C(F)(F)F)(O)C(C=O)c1nccnc1","rationale": "Protonation of the alkoxide intermediate generates a stable β-hydroxy carbonyl, favored under acidic conditions for subsequent elimination."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(C(F)(F)F)(O)C=C([O-])c1nccnc1","rationale": "Deprotonation at the α-position forms an enolate again, enabling conjugation with the β-hydroxy group for elimination."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(N(C)C)cc1)(C(F)(F)F)=C(C=O)c1nccnc1","rationale": "Elimination of water is driven by formation of the conjugated α,β-unsaturated carbonyl, which is thermodynamically stabilized by extended π-delocalization."}],"description": "Under acidic conditions, the reaction proceeds via enolate formation, nucleophilic attack on the carbonyl of the second reactant, and subsequent dehydration to yield the α,β-unsaturated carbonyl product. Acid catalysis facilitates proton transfers and stabilizes intermediates, driving the condensation forward."}
